### PR TITLE
[Merged by Bors] - feat: the moment generating function is analytic

### PR DESCRIPTION
**Pull request by RemyDegenne**
Define a complex-valued moment generating function and prove that it is holomorphic.
As a consequence, the moment generating function is analytic on the interior of the interval on which it is finite.

---

- [x] depends on: #20418
- [x] depends on: #20150
- [x] depends on: #20842
- [x] depends on: #20844

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by EtienneC30 — COMMENTED** [review]
Very nice work!

**Comment by EtienneC30** [comment]
I'm sorry I don't know how I missed the WIP label.

File: Mathlib/Probability/Moments/ComplexMGF.lean [hunk 1]
```diff
@@ -0,0 +1,458 @@
...
+lemma re_complexMGF_ofReal (x : ℝ) : (complexMGF X μ x).re = mgf X μ x := by
+  simp [complexMGF_ofReal]
+
+lemma re_complexMGF_ofReal' : (fun x : ℝ ↦ (complexMGF X μ x).re) = mgf X μ := by
+  ext x
+  exact re_complexMGF_ofReal x
+
+section Analytic
+
+lemma convexMGF_add_sub_sum (ht : t ≠ 0)
```
[the remark this answers is not in the document]
Comment (RemyDegenne) [reply Mathlib/Probability/Moments/ComplexMGF.lean:97]: No it's definitely not intended. It's a typo I make quite often.

**Comment by RemyDegenne** [comment]
> I'm sorry I don't know how I missed the WIP label.

No problem. It's close to being done, and your review is very much welcome!

File: Mathlib/Probability/Moments/ComplexMGF.lean [hunk 2]
```diff
@@ -0,0 +1,458 @@
...
+the `integrableExpSet`. -/
+lemma integrableExpSet_eq_of_mgf [IsProbabilityMeasure μ] [IsProbabilityMeasure μ']
+    (hXY : mgf X μ = mgf Y μ') :
+    integrableExpSet X μ = integrableExpSet Y μ' :=
+  integrableExpSet_eq_of_mgf' hXY <| by simp [IsProbabilityMeasure.ne_zero]
+
+/-- If two random variables have the same moment generating function then they have
+the same `complexMGF` on the vertical strip `{z | z.re ∈ interior (integrableExpSet X μ)}`. -/
+-- todo: the equality also holds on `(integrableExpSet X μ)ᶜ` since both are zero there. What about
+-- the two (at most) vertical lines corresponding to the extemities of the interval?
```
[the remark this answers is not in the document]
Comment (EtienneC30) [reply Mathlib/Probability/Moments/ComplexMGF.lean:423]: Ok, unless I am mistaken I think dominated convergence theorem gives convergence of the complex mgf along horizontal lines when the variable is integrable on the vertical line, which would yield the equality.

File: Mathlib/Probability/Moments/ComplexMGF.lean [hunk 3]
```diff
@@ -0,0 +1,460 @@
...
+    · rw [sub_eq_add_neg]
+      gcongr
+      rw [neg_le]
+      exact (neg_le_abs _).trans hε
+    · gcongr
+      exact (le_abs_self _).trans hε
+  have h_int_zε : Integrable (fun ω ↦ cexp ((z + ε) * X ω)) μ := by
+    rw [← integrable_norm_iff (AEMeasurable.aestronglyMeasurable <| by fun_prop)]
+    simpa only [Complex.norm_eq_abs, Complex.abs_exp, mul_re, add_re, ofReal_re, add_im, ofReal_im,
+      mul_zero, sub_zero]
```
Comment (EtienneC30) [inline Mathlib/Probability/Moments/ComplexMGF.lean:129]: Maybe it would be nice to factor that out with a lemma saying that 
```
example (hz : z.re ∈ integrableExpSet X μ) : Integrable (fun ω ↦ cexp (z * X ω)) μ
```
with something similar for X^n exp(zX)

File: Mathlib/Probability/Moments/ComplexMGF.lean [hunk 4]
```diff
@@ -0,0 +1,458 @@
...
+  · simp [hμ, hμμ'.mp hμ]
+  have hμ' : μ' ≠ 0 := (not_iff_not.mpr hμμ').mp hμ
+  rw [← mgf_pos_iff' hμ, ← mgf_pos_iff' hμ', hXY]
+
+/-- If two random variables have the same moment generating function then they have
+the `integrableExpSet`. -/
+lemma integrableExpSet_eq_of_mgf [IsProbabilityMeasure μ] [IsProbabilityMeasure μ']
+    (hXY : mgf X μ = mgf Y μ') :
+    integrableExpSet X μ = integrableExpSet Y μ' :=
+  integrableExpSet_eq_of_mgf' hXY <| by simp [IsProbabilityMeasure.ne_zero]
```
[the remark this answers is not in the document]
Comment (RemyDegenne) [reply Mathlib/Probability/Moments/ComplexMGF.lean:396]: They are here because of import reasons as you guessed: I defined `integrableExpSet` in the `integrableExpMul` file, which does not import and is not imported by `Moments.Basic`.

My idea was indeed to use `integrableExpSet` only when I need to talk about several points and otherwise simply use `Integrable`.

File: Mathlib/Probability/Moments/ComplexMGF.lean (hunk 2 above)
[the remark this answers is not in the document]
Comment (RemyDegenne) [reply Mathlib/Probability/Moments/ComplexMGF.lean]: I think I will leave it as it is for now, as I don't really need the equality everywhere and would prefer to work on other things.

**Comment by RemyDegenne** [comment]
I still need to move one lemma (marked with `todo: move`) but otherwise the PR is ready to review. I am still trying to figure out where I should put the lemma.

**Comment by RemyDegenne** [comment]
I moved the lemma to `Mathlib.Analysis.SpecialFunctions.Complex.Analytic`.

File: Mathlib/Analysis/Calculus/IteratedDeriv/Defs.lean [hunk 5]
```diff
@@ -290,3 +290,20 @@ theorem iteratedDeriv_eq_iterate : iteratedDeriv n f = deriv^[n] f := by
 derivative. -/
 theorem iteratedDeriv_succ' : iteratedDeriv (n + 1) f = iteratedDeriv n (deriv f) := by
   rw [iteratedDeriv_eq_iterate, iteratedDeriv_eq_iterate]; rfl
+
+lemma AnalyticAt.hasFPowerSeriesAt {f : ℝ → ℝ} {x : ℝ} (h : AnalyticAt ℝ f x) :
+    HasFPowerSeriesAt f
+      (FormalMultilinearSeries.ofScalars ℝ (fun n ↦ iteratedDeriv n f x / n.factorial)) x := by
```
Comment (EtienneC30) [inline Mathlib/Analysis/Calculus/IteratedDeriv/Defs.lean:296]: You can generalize to an `RCLike` field without touching the proof, though that requires importing `RCLike`. So maybe it's better to move this to `Mathlib.Analysis.Calculus.IteratedDeriv.Lemmas`?
```suggestion
lemma AnalyticAt.hasFPowerSeriesAt {𝕜 : Type*} [RCLike 𝕜] {f : 𝕜 → 𝕜} {x : 𝕜}
    (h : AnalyticAt 𝕜 f x) :
    HasFPowerSeriesAt f
      (FormalMultilinearSeries.ofScalars 𝕜 (fun n ↦ iteratedDeriv n f x / n.factorial)) x := by
```

File: Mathlib/Probability/Moments/IntegrableExpMul.lean [hunk 6]
```diff
@@ -539,6 +539,65 @@ lemma memℒp_of_mem_interior_integrableExpSet (h : 0 ∈ interior (integrableEx
...
+  · simpa [Complex.norm_eq_abs, Complex.abs_exp] using hz
+  · exact AEMeasurable.aestronglyMeasurable (by fun_prop)
+
+lemma integrable_cexp_mul_of_re_mem_interior_integrableExpSet
+    (hz : z.re ∈ interior (integrableExpSet X μ)) :
+    Integrable (fun ω ↦ cexp (z * X ω)) μ := by
+  have hX : AEMeasurable X μ := aemeasurable_of_mem_interior_integrableExpSet hz
+  rw [← integrable_norm_iff]
+  · simpa [Complex.norm_eq_abs, Complex.abs_exp] using (interior_subset hz)
+  · exact AEMeasurable.aestronglyMeasurable (by fun_prop)
```
Comment (EtienneC30) [inline Mathlib/Probability/Moments/IntegrableExpMul.lean:561]:
```suggestion
lemma integrable_cexp_mul_of_re_mem_interior_integrableExpSet
    (hz : z.re ∈ interior (integrableExpSet X μ)) :
    Integrable (fun ω ↦ cexp (z * X ω)) μ := by
  have hX : AEMeasurable X μ := aemeasurable_of_mem_interior_integrableExpSet hz
  exact integrable_cexp_mul_of_re_mem_integrableExpSet hX (interior_subset hz)
```
You can even make it a one-liner if you want.

File: Mathlib/Probability/Moments/ComplexMGF.lean [hunk 7]
```diff
@@ -0,0 +1,436 @@
...
+section Analytic
+
+lemma complexMGF_add_sub_sum (hz : z.re ∈ interior (integrableExpSet X μ))
+    (hzε : (z + ε).re ∈ integrableExpSet X μ) (n : ℕ) :
+    complexMGF X μ (z + ε) - ∑ m in range n, ε ^ m / m.factorial * ∫ ω, X ω ^ m * cexp (z * X ω) ∂μ
+      = μ[fun ω ↦ cexp (z * X ω)
+        * (cexp (ε * X ω) - ∑ m in range n, ε ^ m / m.factorial * X ω ^ m)] := by
+  have hX : AEMeasurable X μ := aemeasurable_of_mem_interior_integrableExpSet hz
+  have h_int_mul i : Integrable (fun ω ↦ X ω ^ i * cexp (z * X ω)) μ := by
+    refine integrable_pow_mul_cexp_of_re_mem_interior_integrableExpSet hz i
```
Comment (EtienneC30) [inline Mathlib/Probability/Moments/ComplexMGF.lean:110]:
```suggestion
  have h_int_mul i : Integrable (fun ω ↦ X ω ^ i * cexp (z * X ω)) μ :=
    integrable_pow_mul_cexp_of_re_mem_interior_integrableExpSet hz i
```

**Review by EtienneC30 — COMMENTED** [review]
Nice refactor!

File: Mathlib/Analysis/Calculus/IteratedDeriv/Defs.lean (hunk 5 above)
Comment (RemyDegenne) [reply Mathlib/Analysis/Calculus/IteratedDeriv/Defs.lean]: There is no `RCLike` in lemmas either. In the end I did not move it, and generalized it to
`{𝕜 : Type*} [NontriviallyNormedField 𝕜] [CompleteSpace 𝕜] [CharZero 𝕜]`
(whatever those `𝕜` actually are)

File: Mathlib/Analysis/Analytic/OfScalars.lean [hunk 8]
```diff
@@ -316,4 +311,9 @@ theorem ofScalars_radius_eq_inv_of_tendsto_ENNReal [NormOneClass E] {r : ℝ≥0
 
 end Normed
 
+@[simp]
+lemma coeff_ofScalars_real {p : ℕ → ℝ} {n : ℕ} :
+    (FormalMultilinearSeries.ofScalars ℝ p).coeff n = p n := by
+  simp [FormalMultilinearSeries.coeff, FormalMultilinearSeries.ofScalars, List.prod_ofFn]
```
[the remark this answers is not in the document]
Comment (RemyDegenne) [reply Mathlib/Analysis/Analytic/OfScalars.lean]: I moved it closer to the definition, but after the basic API lemmas about zero.

File: Mathlib/Analysis/Calculus/IteratedDeriv/Defs.lean (hunk 5 above)
Comment (EtienneC30) [reply Mathlib/Analysis/Calculus/IteratedDeriv/Defs.lean]: I was under the impression that the number of declarations in `Defs` files should be minimal. If you don't think it's important feel free to ignore this.
> (whatever those `𝕜` actually are)

Yes I wondered that too so I didn't do the generalization in the end 😆

**Review by EtienneC30 — APPROVED** [review]

File: Mathlib/Probability/Moments/ComplexMGF.lean [hunk 9]
```diff
@@ -0,0 +1,436 @@
...
+/-- If two random variables have the same moment generating function then they have
+the `integrableExpSet`. -/
+lemma integrableExpSet_eq_of_mgf [IsProbabilityMeasure μ] [IsProbabilityMeasure μ']
+    (hXY : mgf X μ = mgf Y μ') :
+    integrableExpSet X μ = integrableExpSet Y μ' :=
+  integrableExpSet_eq_of_mgf' hXY <| by simp [IsProbabilityMeasure.ne_zero]
+
+/-- If two random variables have the same moment generating function then they have
+the same `complexMGF` on the vertical strip `{z | z.re ∈ interior (integrableExpSet X μ)}`. -/
+lemma eqOn_complexMGF_of_mgf' (hXY : mgf X μ = mgf Y μ') (hμμ' : μ = 0 ↔ μ' = 0) :
```
Comment (sgouezel) [inline Mathlib/Probability/Moments/ComplexMGF.lean:400]: This argument feels a little bit strange to me: if they have the same `mgf` and `integrableExpSet` has nonempty interior, then `X` and `Y` are identically distributed, and then of course they have the same `complexMGF` (and not only on the vertical strip, but everywhere). I guess we don't have the fact I've used above (same mgf => identDistrib), but it looks more fundamental to me than the current statement. Unless the current statement is a lemma on the way to a proof of this result?

File: Mathlib/Probability/Moments/ComplexMGF.lean [hunk 10]
```diff
@@ -0,0 +1,436 @@
...
+  · rw [tendsto_nhdsWithin_iff] at hx_tendsto ⊢
+    constructor
+    · rw [tendsto_ofReal_iff]
+      exact hx_tendsto.1
+    · simpa using hx_tendsto.2
+  · simp [hx_eq]
+
+/-- If two random variables have the same moment generating function then they have
+the same `complexMGF` on the vertical strip `{z | z.re ∈ interior (integrableExpSet X μ)}`. -/
+lemma eqOn_complexMGF_of_mgf [IsProbabilityMeasure μ] [IsProbabilityMeasure μ']
```
Comment (sgouezel) [inline Mathlib/Probability/Moments/ComplexMGF.lean:429]: Remove `[IsProbabilityMeasure μ']`?

File: Mathlib/Probability/Moments/MGFAnalytic.lean [hunk 11]
```diff
@@ -0,0 +1,104 @@
...
+
+/-!
+# The moment generating function is analytic
+
+The moment generating function `mgf X μ` of a random variable `X` with respect to a measure `μ`
+is analytic on the interior of `integrableExpSet X μ`, the interval on which it is defined.
+
+## Main results
+
+* `analyticOnNhd_mgf`: the moment generating function is analytic on the interior of the interval
```
Comment (sgouezel) [inline Mathlib/Probability/Moments/MGFAnalytic.lean:17]: Use `analyticOn` instead of `analyticOnNhd`.

**Review by sgouezel — COMMENTED** [review]
Very nice, and very important! Thanks!

File: Mathlib/Probability/Moments/ComplexMGF.lean [hunk 12]
```diff
@@ -0,0 +1,436 @@
...
+  refine integrable_pow_abs_mul_exp_add_of_integrable_exp_mul (t := t) ?_ ?_ ?_ (hε.trans_eq ?_) n
+  · exact h_subset (add_half_inf_sub_mem_Ioo hlu)
+  · exact h_subset (sub_half_inf_sub_mem_Ioo hlu)
+  · exact AbsoluteValue.nonneg abs ε
+  · rw [_root_.abs_of_nonneg ht.le]
+
+lemma eventually_abs_complexMGF_add_sub_sum_le (hz : z.re ∈ interior (integrableExpSet X μ))
+    (n : ℕ) :
+    ∀ᶠ ε in 𝓝 0,
+      abs (complexMGF X μ (z + ε)
```
[the remark this answers is not in the document]
Comment (RemyDegenne) [reply Mathlib/Probability/Moments/ComplexMGF.lean:175]: I used `abs` because I got errors with `| |` at some point, but perhaps I need to open something (which I may or may not have already opened since). I need to find out.

File: Mathlib/Probability/Moments/ComplexMGF.lean (hunk 9 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Moments/ComplexMGF.lean:400]: Etienne pointed this out too in one of the now hidden discussions above: the proof I have in mind for [equal mgf => equal distributions] is [equal mgf => equal complexMGF on a domain containing the vertical line going through 0 => equal characteristic functions => equal distributions].
Perhaps there is a more direct route I should use instead?

File: Mathlib/Probability/Moments/ComplexMGF.lean (hunk 12 above)
[the remark this answers is not in the document]
Comment (RemyDegenne) [reply Mathlib/Probability/Moments/ComplexMGF.lean:175]: I get `failed to synthesize Lattice ℂ`

File: Mathlib/Probability/Moments/ComplexMGF.lean [hunk 13]
```diff
@@ -0,0 +1,436 @@
...
+  _ =O[𝓝 0] fun ε ↦ (abs ε) ^ n * 1 := by
+    refine Asymptotics.IsBigO.mul (Asymptotics.isBigO_refl _ _) ?_
+    refine Tendsto.isBigO_one _ (c := μ[fun ω ↦ |X ω| ^ n * rexp (z.re * X ω)]) ?_
+    exact tendsto_integral_pow_abs_mul_exp hz n
+  _ = fun ε ↦ (abs ε) ^ n := by simp
+
+/-- For all `z : ℂ` such that the real part `z.re` belongs to the interior
+  of the interval of definition of the mgf, `complexMGF X μ` is differentiable at `z`
+  with derivative `μ[X * exp (z * X)]`. -/
+theorem hasDerivAt_complexMGF (hz : z.re ∈ interior (integrableExpSet X μ)) :
```
[the remark this answers is not in the document]
Comment (RemyDegenne) [reply Mathlib/Probability/Moments/ComplexMGF.lean]: I did not realize there was no link. I proved the result about the first derivative first, then other derivatives, and I did not see that I did not reuse anything from the first proof.
Removing all that material makes the proof and file much shorter!

File: Mathlib/Probability/Moments/ComplexMGF.lean (hunk 12 above)
[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/Probability/Moments/ComplexMGF.lean]: ok, no need to fight against this too hard. Keep `abs` where it helps.

File: Mathlib/Probability/Moments/ComplexMGF.lean (hunk 9 above)
Comment (sgouezel) [reply Mathlib/Probability/Moments/ComplexMGF.lean:264]: This is a perfectly reasonable route (I would follow the same). Maybe add comments in the docstring lemma explaining this (and in particular explain that a stronger version of the lemma can be proved once this path has been taken to its end).

I wonder if it would make sense to weaken the assumptions, just assuming that the mgf coincide on a small open interval inside `integrableExpSet` of both -- which in the end should be enough to show that they are identically distributed.

Comment (RemyDegenne) [reply Mathlib/Probability/Moments/ComplexMGF.lean:273]: I added comments.
About the weaker assumptions: let's wait and see what would be convenient when we actually use the lemmas?

File: Mathlib/Probability/Moments/Basic.lean [hunk 14]
```diff
@@ -206,6 +202,11 @@ lemma mgf_id_map (hX : AEMeasurable X μ) : mgf id (μ.map X) = mgf X μ := by
   · rfl
   · exact (measurable_const_mul _).exp.aestronglyMeasurable
 
+lemma mgf_congr_identDistrib {Ω' : Type*} {mΩ' : MeasurableSpace Ω'} {μ' : Measure Ω'}
+    {Y : Ω' → ℝ}  (h : IdentDistrib X Y μ μ') :
```
Comment (EtienneC30) [inline Mathlib/Probability/Moments/Basic.lean:206]:
```suggestion
    {Y : Ω' → ℝ} (h : IdentDistrib X Y μ μ') :
```

File: Mathlib/Analysis/Calculus/IteratedDeriv/Defs.lean [hunk 15]
```diff
@@ -290,3 +290,22 @@ theorem iteratedDeriv_eq_iterate : iteratedDeriv n f = deriv^[n] f := by
 derivative. -/
 theorem iteratedDeriv_succ' : iteratedDeriv (n + 1) f = iteratedDeriv n (deriv f) := by
   rw [iteratedDeriv_eq_iterate, iteratedDeriv_eq_iterate]; rfl
+
+lemma AnalyticAt.hasFPowerSeriesAt {𝕜 : Type*} [NontriviallyNormedField 𝕜] [CompleteSpace 𝕜]
+    [CharZero 𝕜] {f : 𝕜 → 𝕜} {x : 𝕜}
+    (h : AnalyticAt 𝕜 f x) :
```
Comment (EtienneC30) [inline Mathlib/Analysis/Calculus/IteratedDeriv/Defs.lean:296]: Don't you want to put those two on the same line?
```suggestion
    [CharZero 𝕜] {f : 𝕜 → 𝕜} {x : 𝕜} (h : AnalyticAt 𝕜 f x) :
```

**Review by EtienneC30 — COMMENTED** [review]
This seems good to go to me.

File: Mathlib/Probability/Moments/MGFAnalytic.lean [hunk 16]
```diff
@@ -0,0 +1,107 @@
...
+# The moment generating function is analytic
+
+The moment generating function `mgf X μ` of a random variable `X` with respect to a measure `μ`
+is analytic on the interior of `integrableExpSet X μ`, the interval on which it is defined.
+
+## Main results
+
+* `analyticOn_mgf`: the moment generating function is analytic on the interior of the interval
+  on which it is defined.
+* `iteratedDeriv_mgf`: the nth derivative of the mgf at `t` is `μ[X ^ n * exp (t * X)]`.
```
Comment (adomani) [inline Mathlib/Probability/Moments/MGFAnalytic.lean:19]:
```suggestion
* `iteratedDeriv_mgf`: the n-th derivative of the mgf at `t` is `μ[X ^ n * exp (t * X)]`.
```

File: Mathlib/Probability/Moments/ComplexMGF.lean (hunk 9 above)
Comment (sgouezel) [reply Mathlib/Probability/Moments/ComplexMGF.lean:273]: I wonder if this lemma will be enough for the proof you're describing: if `0` is on the boundary of `integrableExpSet`, then you would rather need to know that `complexMGF` coincide on the whole strip above `integrableExpSet`, not just its interior. This follows from what you have just proved, and continuity on the whole strip (which follows from dominated convergence, say, and would in any case be good to have). This can definitely wait for another PR, though!

File: Mathlib/Probability/Moments/ComplexMGF.lean [hunk 17]
```diff
@@ -0,0 +1,315 @@
...
+
+end Analytic
+
+section Deriv
+
+/-! ### Iterated derivatives of `complexMGF` -/
+
+/-- For `t : ℝ` with `t ∈ interior (integrableExpSet X μ)`, the derivative of the function
+`x ↦ μ[X ^ n * rexp (x * X)]` at `t` is `μ[X ^ (n + 1) * rexp (t * X)]`. -/
+lemma hasDerivAt_integral_pow_mul_exp_real (ht : t ∈ interior (integrableExpSet X μ)) (n : ℕ) :
```
Comment (sgouezel) [inline Mathlib/Probability/Moments/ComplexMGF.lean:193]: Maybe move this one to the file on `MGFAnalytic`? It is purely on the real MGF, if I understand correctly.

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

**Comment by RemyDegenne** [comment]
Thanks for the reviews!
bors r+
